US06756392B2
A solution of 2-Hydroxy-3-methylbenzoic acid (118 mg, 0.773 mmol), 1-hydroxybenzotriazole (157 mg, 1.16 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (193 mg, 1.01 mmol), N-(4-aminomethyl-benzyl)-5-fluoro-2-(4-fluoro-phenoxy)-nicotinamide hydrochloride (300 mg, 0.773 mmol) (see Preparation 3) and N-methyl morpholine (0.17 ml, 1.55 mmol) in N,N-dimethylformamide (6 ml) was stirred under nitrogen at room temperature for 18 hours. The mixture was then partitioned between ethyl acetate (10 ml) and water (10 ml). The organic phase was separated, washed with a saturated aqueous solution of sodium chloride (10 ml) and dried over anhydrous magnesium sulphate. The solvent was then removed in vacuo and the residue was triturated with diethylether (3-fold 10 ml) giving 2-(4-fluoro-phenoxy)-N-{4-[(2-hydroxy-3-methyl-benzoylamino)-methyl]-benzyl}-nicotinamide (80 mg) as an off-white foam.

reactant | 2-Hydroxy-3-methylbenzoic acid | 0.773 mmol, 118 mg | OC1=C(C(=O)O)C=CC=C1C | C8H8O3
reactant | 1-hydroxybenzotriazole | 1.16 mmol, 157 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.01 mmol, 193 mg | Cl.CN(CCCN=C=NCC)C
reactant | N-(4-aminomethyl-benzyl)-5-fluoro-2-(4-fluoro-phenoxy)-nicotinamide hydrochloride | 0.773 mmol, 300 mg | Cl.NCC1=CC=C(CNC(C2=C(N=CC(=C2)F)OC2=CC=C(C=C2)F)=O)C=C1
reactant | N-methyl morpholine | 1.55 mmol, 0.17 ml | CN1CCOCC1 | C5H11NO
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 2-(4-fluoro-phenoxy)-N-{4-[(2-hydroxy-3-methyl-benzoylamino)-methyl]-benzyl}-nicotinamide | 80 mg | FC1=CC=C(OC2=C(C(=O)NCC3=CC=C(C=C3)CNC(C3=C(C(=CC=C3)C)O)=O)C=CC=N2)C=C1 | C28H24FN3O4
